MM8 (net9 net9 VSS VSS) nmos4
MM7 (net8 net9 VSS VSS) nmos4
MM3 (net20 VREF1 net16 VSS) nmos4
MM0 (net11 net20 net16 VSS) nmos4
MM4 (net16 net1005 VSS VSS) nmos4
MM6 (net9 net11 VDD VDD) pmos4
MM5 (net8 net20 VDD VDD) pmos4
MM1 (net20 net20 VDD VDD) pmos4
MM2 (net11 net11 VDD VDD) pmos4
MM2 (net1005 net1005 VSS VSS) nmos4
MM10 (VB1 net1007 VSS VSS) nmos4
MM1 (net1005 VB1 VDD VDD) pmos4
MM0 (VB1 VB1 VDD VDD) pmos4
MM5 (net014 net014 VSS VSS) nmos4
MM4 (net15 net014 VSS VSS) nmos4
MM2 (VB2 net1007 net15 VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4
MM6 (net014 VB2 VDD VDD) pmos4
MM3 (VB2 VB2 VDD VDD) pmos4
MM1 (net1007 VB2 VDD VDD) pmos4
M3 (net21 net8 VOUT1 VDD) pmos4
M1 (VOUT1 net12 VDD VDD) pmos4
M0 (net12 VB4 VDD VDD) pmos4
M4 (net21 VB3 VSS VSS) nmos4
M2 (net12 VB5 net21 VSS) nmos4
R1 (net20 VSS) resistor
R0 (VOUT1 net20) resistor
C1 (net8 VSS) capacitor
C0 (net12 VOUT1) capacitor